US04380675
2,4-Di-ethylheptanol
Into a 0.5 liter shaking autoclave with glass insert, 33.2 g (0.2 mol.) 2,4-diethyl-2,6-heptadienal, 70 ml methanol and 3 g freshly prepared Raney nickel were introduced. The hydrogenation takes about 165 minutes after the pressure becomes constant. Subsequently, the catalyst is filtered off and after withdrawal of the solvent, distillation takes place in a water jet vacuum. The yield is 28 g, corresponding to 81.4% of the theoretical amount. B.p.12 : 109° C., colorless oil, fruit-like fragrance.

reactant | 2,4-diethyl-2,6-heptadienal | 0.2 mol, 33.2 g | C(C)C(C=O)=CC(CC=C)CC | C11H18O
catalyst | Raney nickel | [Ni] | Ni
solvent | methanol | 70 ml | CO | CH4O
product | 2,4-Di-ethylheptanol | C(C)C(CO)CC(CCC)CC | C11H24O
